US07790714B2
(S)-2-Benzyloxycarbonylamino-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methyl ester
To a suspension of (S)-2-amino-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methyl ester hydrochloride in ethyl acetate (25 mL) was added 1N NaHCO3 solution (12.5 ml.) and the mixture was stirred rapidly at ambient temperature for the addition of neat benzyl chloroformate (0.859 g, 1.01 eq., 5.05 mmol). Following addition, the reaction mixture was stirred for an additional hour; TLC and LC-MS analysis showed the reaction to be complete. The mixture was partitioned and the organic phase was separated and dried over Na2SO4 and concentrated. The crude product was used directly in the subsequent reaction without purification.

reactant | (S)-2-amino-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methyl ester hydrochloride | Cl.COC([C@@](CC1=CC=C(C=C1)O)(C)N)=O
reactant | NaHCO3 | 1N, 12.5 ml | C(=O)(O)[O-].[Na+]
reactant | benzyl chloroformate | 5.05 mmol, 0.859 g, 1.01 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | (S)-2-Benzyloxycarbonylamino-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methyl ester | COC([C@@](CC1=CC=C(C=C1)O)(C)NC(=O)OCC1=CC=CC=C1)=O | C19H21NO5
